US07767675B2
Step 3. 4-(methoxymethyl)tetrahydro-2H-pyran-4-amine hydrochloride
To a solution of tert-butyl[4-(methoxymethyl)tetrahydro-2H-pyran-4-yl]carbamate (0.45 g, 0.0018 mol) in EtOAc (0.2 mL) was added 4M of hydrogen chloride in 1,4-dioxane (3 mL) and stirred for 2 h. The volatiles were removed under reduced pressure to give the desired compound which was directly used in next step without further purification. LCMS: (M+H)=146.2.

reactant | tert-butyl[4-(methoxymethyl)tetrahydro-2H-pyran-4-yl]carbamate | 0.0018 mol, 0.45 g | C(C)(C)(C)OC(NC1(CCOCC1)COC)=O | C12H23NO4
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | EtOAc | 0.2 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-(methoxymethyl)tetrahydro-2H-pyran-4-amine hydrochloride | Cl.COCC1(CCOCC1)N | InChI=1S/C7H15NO2.ClH/c1-9-6-7(8)2-4-10-5-3-7;/h2-6,8H2,1H3;1H
